US06809105B2
cis-1-benzyl-5-(6-chloro-3-pyridinyl)octahydropyrrolo[3,4-b]pyrrole
cis-1-Benzyloctahydropyrrolo[3,4-b]pyrrole (500 mg, 2.48 mmol), prepared as described in (U.S. Pat. No. 5,071,999), and 2-chloro-5-iodopyridine (643 mg, 2.69 mmol), prepared as described in (Tetrahedron Lett. (1993), 34, 7493-7496), were processed as described in Example 1E to provide the title compound as a tan solid (508 mg, 65% yield). MS (DCI/NH3) m/z 314, 316 (M+H)+.

reactant | cis-1-Benzyloctahydropyrrolo[3,4-b]pyrrole | 2.48 mmol, 500 mg | C(C1=CC=CC=C1)N1[C@@H]2[C@H](CC1)CNC2 | C13H18N2
reactant | 2-chloro-5-iodopyridine | 2.69 mmol, 643 mg | ClC1=NC=C(C=C1)I | C5H3ClIN
product | cis-1-benzyl-5-(6-chloro-3-pyridinyl)octahydropyrrolo[3,4-b]pyrrole | 508 mg, 65% yield | C(C1=CC=CC=C1)N1[C@@H]2[C@H](CC1)CN(C2)C=2C=NC(=CC2)Cl | C18H20ClN3
